US08115014B2
Ethyl 4-(7-bromo-2-methyl-1H-indol-3-yl)butanoate
To a solution of (2-bromophenyl)hydrazine hydrochloride (14 g) in ethanol (60 mL), 5-acetylvaleric acid (9.0 g) was added. The reaction mixture was stirred at 50° C. for 40 minutes, and concentrated sulfuric acid (6.0 mL) was added thereto, followed by heating under reflux for 16 hours. The reaction mixture was added to a saturated aqueous sodium hydrogen carbonate solution which was then extracted with ethyl acetate and dried over anhydrous sodium sulfate, followed by concentratration under reduced pressure. The resulting residue was purified by column chromatography (hexane:ethyl acetate=8:1) to obtain the title compound (15 g) having the following physical properties.

reactant | (2-bromophenyl)hydrazine hydrochloride | 14 g | Cl.BrC1=C(C=CC=C1)NN
reactant | 5-acetylvaleric acid | 9.0 g | C(C)(=O)CCCCC(=O)O | C7H12O3
reactant | sulfuric acid | 6.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | ethanol | 60 mL | C(C)O | C2H6O
product | Ethyl 4-(7-bromo-2-methyl-1H-indol-3-yl)butanoate | 15 g | BrC=1C=CC=C2C(=C(NC12)C)CCCC(=O)OCC | C15H18BrNO2
